US07569589B2
To the solution of bis(6-bromopyridin-2-yl)methanol (1.07 g, 3.11 mmol) in CCl4 (15 mL) and CH2Cl2(15 mL) was added triphenylphophine (1.14 g, 4.36 mmol) and stirred overnight. The mixture was concentrated and the residue was purified by silica gel chromatography (5-10% EtOAc in hexane) to give 2-bromo-6-[(6-bromopyridin-2-yl)(chloro)methyl]pyridine. LRMS m/z (M+H) Calcd: 362.5, found: 362.8.

reactant | bis(6-bromopyridin-2-yl)methanol | 3.11 mmol, 1.07 g | BrC1=CC=CC(=N1)C(O)C1=NC(=CC=C1)Br | C11H8Br2N2O
reactant | triphenylphophine | 4.36 mmol, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-6-[(6-bromopyridin-2-yl)(chloro)methyl]pyridine | BrC1=NC(=CC=C1)C(Cl)C1=NC(=CC=C1)Br | C11H7Br2ClN2
